US07001897B2
To a solution of 1-(4-cyano-1,3-thiazol-2-yl)-3-hydroxyazetidine (0.78 g, 4.3 mmol) (obtained as described in Reference Example 4(2)) in methylene chloride (40 ml) were added methanesulfonyl chloride (1.0 ml, 12.9 mmol) and triethylamine (1.8 ml, 12.9 mmol) in an ice bath. After stirring the mixture in the ice bath for 10 minutes, the mixture was stirred at room temperature for 40 minutes. After checking the completion of the reaction, methanol was added to the reaction mixture in an ice bath and then the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene:ethyl acetate (1:1) as the eluant to afford 1-(4-cyano-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine (1.12 g, yield 100%) as a white solid.

reactant | 1-(4-cyano-1,3-thiazol-2-yl)-3-hydroxyazetidine | 4.3 mmol, 0.78 g | C(#N)C=1N=C(SC1)N1CC(C1)O | C7H7N3OS
reactant | methanesulfonyl chloride | 12.9 mmol, 1.0 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 12.9 mmol, 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-cyano-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine | 1.12 g, yield 100% | C(#N)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C8H9N3O3S2
